US08258149B2
To a suspension of berberine hydrochloride (500 mg, 1.3 mmol) in anhydrous diethyl ether (100 mL) at 0° C. was added isopropenylmagnesium bromide solution (0.5 M in tetrahydrofuran, 52 mL, 26 mmol) dropwise. After stirring at 0° C. for 2 h, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 8-isopropenyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (500 mg, 98%). LC/MS m/e calcd for C23H23NO4 (M+H)+: 378.44, observed: 378.0; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3 H) 2.72-2.83 (m, 2 H) 3.00-3.09 (m, 1 H) 3.12-3.20 (m, 1 H) 3.71 (s, 3 H) 3.77 (s, 3 H) 4.61 (s, 1 H) 4.92 (d, J=1.52 Hz, 1 H) 5.19 (s, 1 H) 5.80 (s, 1 H) 6.00 (d, J=2.27 Hz, 2 H) 6.69 (d, J=8.59 Hz, 1 H) 6.77 (s, 1 H) 6.85 (d, J=8.34 Hz, 1 H) 7.23 (s, 1 H).

reactant | berberine hydrochloride | 1.3 mmol, 500 mg | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | isopropenylmagnesium bromide | 26 mmol, 0.5 M, 52 mL | C(=C)(C)[Mg]Br
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 8-isopropenyl-9,10-dimethoxy-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 500 mg, 98% | C(=C)(C)C1C=2C(=C(C=CC2C=C2N1CCC1=CC3=C(C=C21)OCO3)OC)OC | C23H23NO4
